US05374641
A solution of diisopropylamine (4.5 g) in dry tetrahydrofuran (60 ml) was cooled to -35 to 31 40 ° C., followed by addition of 1.5M n-butyl lithium in 30 ml of hexane in solution, and stirred for 30 minutes, to produce lithium diisopropylamide. To the solution was added a solution of 2-(3-pyridyl)-2-(trimethylsiloxy)acetonitrile in dry tetrahydrofuran at -78 ° C., and stirred at the same temperature for 30 minutes. After the addition of a solution of methyl 4-bromomethyl benzoate in dry tetrahydrofuran at - 78 ° C., stirring was effected overnight at -78 ° C. to room temperature. To the reaction mixture obtained was added 1.0 M tetra-n-butylammonium fluoride in 40 ml of dry tetrahydrofuran in solution and stirred at room temperature for 3.5 hours. The reaction solution was poured into saturated aqueous sodium chloride solution, and after separation of the organic phase, the aqueous phase was extracted with ethyl acetate. The combined organic phases were washed in saturated aqueous sodium chloride solution, followed by drying over magnesium sulfate and distillation of the solvent. The residue was subjected to chromatography on a silica gel column. A fraction eluted with chloroform-methanol (50:1 v/v) was recrystallized in n-hexane chloroform to produce 3.0 g of methyl 4-[2-oxo-2-(3-pyridyl)ethyl]benzoate.

reactant | 2-(3-pyridyl)-2-(trimethylsiloxy)acetonitrile | N1=CC(=CC=C1)C(C#N)O[Si](C)(C)C | C10H14N2OSi
reactant | methyl 4-bromomethyl benzoate | COC(=O)C1=CC=C(C=C1)CBr | C9H9BrO2
reactant | tetra-n-butylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | methyl 4-[2-oxo-2-(3-pyridyl)ethyl]benzoate | 3.0 g | O=C(CC1=CC=C(C(=O)OC)C=C1)C=1C=NC=CC1 | C15H13NO3
